US06335346B1
Potassium tert-butoxide (269 mg; 2.39 mmol) is added to a solution of 2-acetyl-1,1-dimethyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline (164 mg; 0.60 mmol) in DMF (15 ml). The mixture is stirred under an oxygen atmosphere overnight. A 1/1 ethyl acetate/methanol mixture (10 ml) is then added. After evaporating the solvent and washing the solid, 2-acetyl-3,3-dimethyl-7-methoxy-9-oxo-1,3,4,9-tetrahydropyrrolo[3,4-b]quinoline is obtained (38 mg; 22%)

reactant | Potassium tert-butoxide | 2.39 mmol, 269 mg | CC(C)([O-])C.[K+]
reactant | 2-acetyl-1,1-dimethyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline | 0.60 mmol, 164 mg | C(C)(=O)N1C(C=2NC3=CC=C(C=C3C2CC1)OC)(C)C | C16H20N2O2
reactant | ethyl acetate methanol | 10 ml | C(C)(=O)OCC.CO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-acetyl-3,3-dimethyl-7-methoxy-9-oxo-1,3,4,9-tetrahydropyrrolo[3,4-b]quinoline | C(C)(=O)N1C(C=2NC=3C=CC(=CC3C(C2C1)=O)OC)(C)C | C16H18N2O3
